US03954730
B. 1-Chloro-1-cyclohexanecarboxylic acid chloride
80 g (0.547 mol) of cyclohexanecarboxylic acid chloride, 30 ml of carbon tetrachloride, 63 ml (0.778 mol) of SO2Cl2 and 1.5 g of benzoyl peroxide are heated for 10 hours. The chlorinated acid chloride is then distilled from the reaction mixture.

reactant | cyclohexanecarboxylic acid chloride | 0.547 mol, 80 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | benzoyl peroxide | 1.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Chloro-1-cyclohexanecarboxylic acid chloride | ClC1(CCCCC1)C(=O)Cl | C7H10Cl2O
